data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_193577_1,[C:1](/[C:4]([N:2](/[C:3]([N:5]([H:11])[H:12])=[C:7](\[N:6]([H:14])[H:15])[H:16])[O:8][H:10])=[N:9]/[H:13])([H:17])([H:18])[H:19]>>[C:1](/[C:4]([C@:7](/[C:3](=[N:2]\[O:8][H:10])[N:5]([H:11])[H:12])([N:6]([H:14])[H:15])[H:16])=[N:9]/[H:13])([H:17])([H:18])[H:19],63.34612499997164
MR_631421_2,[C:1]([N:8]([C:3]([C:2]([H:15])([H:16])[H:17])=[O:6])/[C:4](=[C:5](\[O:7][H:9])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:8]=[C:3](\[C:2]([H:15])([H:16])[H:17])[O:6]/[C:4](=[C:5](\[O:7][H:9])[H:11])[H:10])([H:12])([H:13])[H:14],64.09034000001881
MR_597096_2,[C:1]1([O:3][H:8])([O:4][H:9])[N:5]=[N:7][C:2]([H:10])=[N:6]1>>[C:1]1([O:3][H:8])=[N:6][C:2]([O:4][H:9])([H:10])[N:7]=[N:5]1,61.31302499996835
MR_90957_1,[C:1]1([C:2]([H:12])([H:13])[H:14])=[N:7][C:5]([N:3]([H:8])[H:9])([H:11])[C:4]([H:10])=[N:6]1>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])[N:6]=[C:4]([H:10])[C:5]([H:11])=[N:7]1,72.50072250000784
MR_102541_1,[C:1](/[C:5](=[C:4](/[N:7]=[C:2](/[N:3]([H:9])[H:10])[O:6][H:8])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([H:12])[C:2]([N:3]([H:9])[H:10])([O:6][H:8])[N:7]=[C:4]1[H:11])([H:13])([H:14])[H:15],47.78977249997581
MR_151812_0,[C:1]([C:2]([N:3]([C:5]([N:4]([H:9])[H:10])=[O:8])[N:6]([H:12])[H:13])([H:14])[H:15])(=[O:7])[H:11]>>[C:1]1([O:7][H:9])([H:11])[C:2]([H:14])([H:15])[N:3]([N:6]([H:12])[H:13])[C:5](=[O:8])[N:4]1[H:10],47.00978999998327
MR_640173_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])/[N:8]=[N:9]/[C:6]([C:5]([H:19])([H:20])[H:21])=[C:7]([H:22])[H:23]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([H:17])([H:18])[N:8]1[N:9]=[C:6]([C:5]([H:19])([H:20])[H:21])[C:7]([H:16])([H:22])[H:23],64.11293000003312
MR_590196_0,[N:1]([N:2]([O:5][H:8])[H:9])([C:3](=[O:6])[H:10])[O:4][H:7]>>[N:1](=[C:3](/[O:6][N:2]([O:5][H:8])[H:9])[H:10])\[O:4][H:7],57.4802549999788
MR_68580_1,[C@:1]1([C@:2]2([H:9])[C:4]([H:11])([H:12])[O:8]2)([C:5]([H:13])([H:14])[H:15])[C@@:3]([C:6]([H:16])([H:17])[H:18])([H:10])[O:7]1>>[C:1]1([C:2]2([H:9])[C:4]([H:11])([H:12])[O:8]2)([C:5]([H:13])([H:14])[H:15])[C:3]([C:6]([H:16])([H:17])[H:18])([H:10])[O:7]1,58.69635000001168
MR_534325_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[O:7][O:8][C:2]([N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[O:8][O:7][C:2]([N:6]([H:9])[H:10])([H:11])[H:12],59.27239500001974
MR_423829_0,[N:1]([O:3][C:2]([O:5][H:8])=[O:6])([O:4][H:7])[H:9]>>[N:1]([O:4][H:7])([O:6][C:2](=[O:3])[O:5][H:8])[H:9],37.48245750003207
MR_237314_0,[C:1]1([N:7]([C:3]([H:13])([H:15])[H:16])[C:4]([H:14])([H:17])[H:18])([H:10])[N:6]([C:2]([C:5]([H:19])([H:20])[H:21])([H:11])[H:12])[N:8]1[H:9]>>[C:1](\[N:6]([C:2]([C:5]([H:19])([H:20])[H:21])([H:11])[H:12])[N:7]([C:3]([H:13])([H:15])[H:16])[C:4]([H:14])([H:17])[H:18])(=[N:8]\[H:9])[H:10],55.070027500000265
MR_348169_2,[C:1](/[C:4](=[C:5](/[C:3](=[O:8])[H:11])[H:13])[H:12])([O:6][C:2]([H:14])([H:15])[H:16])([O:7][H:9])[H:10]>>[C:1](=[C:4](/[C:5]([C:3](=[O:8])[H:11])([O:6][C:2]([H:14])([H:15])[H:16])[H:13])[H:12])(\[O:7][H:9])[H:10],57.68795749998944
MR_85794_0,[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:4]([H:10])=[N:6][N:3]1[O:5][H:7]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:4]1(/[N:6]=[N:3]/[O:5][H:7])[H:10],56.72098000000531
MR_677776_1,[C:1]1([C:4]([H:13])([H:14])[H:15])([N:6]=[O:7])[C:2]([N:5]([H:9])[H:10])([H:8])[C:3]1([H:11])[H:12]>>[C:1](=[C:2](\[N:5]([H:9])[H:10])[H:8])(\[C:3]([N:6]=[O:7])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15],44.42386249994897
MR_572686_1,[C:1]1([H:12])([H:13])[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7][N:8]1/[C:4](=[N:3]/[H:9])[N:6]([H:10])[H:11]>>[C:1]1([H:12])([H:13])[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7][N:3]([H:9])[C:4]([N:6]([H:10])[H:11])=[N:8]1,69.68450250001993
MR_250109_1,[C:1]([C:2](=[C:4]([H:12])[H:13])[O:6][H:9])([C:3](=[O:7])[H:11])([O:5][H:8])[H:10]>>[C:1]([C:3]([C:2](=[C:4]([H:12])[H:13])[O:6][H:9])=[O:7])([O:5][H:8])([H:10])[H:11],62.83973250000173
MR_342179_1,[N:1]([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][C:2]([O:6][H:8])=[O:7])[H:9]>>[N:1]([C:2]([O:6][H:8])=[O:7])([O:5][C:3](=[C:4]([H:11])[H:12])[H:10])[H:9],68.12391000000076
MR_300792_0,[C:1](=[C:3]([C:2]1([H:7])[C:4]([H:9])([H:10])[N:6]([H:13])[O:5]1)[H:8])([H:11])[H:12]>>[C:1](/[C:3](=[C:2](\[O:5][N:6]=[C:4]([H:9])[H:10])[H:7])[H:8])([H:11])([H:12])[H:13],50.128464999956606
MR_428197_0,[N:1](/[C:2](=[N:5]/[O:4][H:7])[H:9])([O:3][H:6])[H:8]>>[N:1](=[C:2](/[N:5]([O:4][H:7])[H:8])[H:9])\[O:3][H:6],43.29687249997647
MR_335376_1,[C:1](/[C:2]([N:4]([H:11])[H:12])=[C:5](\[N:7][H:13])[H:14])([N:3]([H:9])[H:10])[O:6][H:8]>>[C@@:1]1([N:3]([H:9])[H:10])([O:6][H:8])[C:2]([N:4]([H:11])[H:12])=[C:5]([H:14])[N:7]1[H:13],44.7551825000042
